US06620841B1
To a suspension of sodium hydride (60% in mineral oil, 311 mg, 7.8 mmol) in DMF (15 ml) was added dropwise at an ice bath temperature a solution of diethyl(methoxycarbonylmethyl)phosphonate (1.64 g, 7.8 mmol) in DMF (3 ml). The mixture was stirred for 30 minutes at room temperature and cooled again. To the mixture was added dropwise a solution of 1-benzyl-3-formylpyrrole (1.2 g, 6.5 mmol) in DMF (2 ml). The reaction mixture was stirred for 12 hours at room temperature and poured into ice-water, and extracted with ethylacetate. The extract was washed with water and dried. The solvent was evaporated. The obtained white crystal was washed with i-Pr2O to give 1-benzyl-3-(2-methoxycarbonylvinyl)pyrrole (1.3 g). Yield: 83%.

reactant | sodium hydride | 7.8 mmol, 311 mg | [H-].[Na+]
reactant | diethyl(methoxycarbonylmethyl)phosphonate | 7.8 mmol, 1.64 g | C(C)OP(OCC)(=O)CC(=O)OC | C7H15O5P
reactant | 1-benzyl-3-formylpyrrole | 6.5 mmol, 1.2 g | C(C1=CC=CC=C1)N1C=C(C=C1)C=O | C12H11NO
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 1-benzyl-3-(2-methoxycarbonylvinyl)pyrrole | 1.3 g, Yield: 83% | C(C1=CC=CC=C1)N1C=C(C=C1)C=CC(=O)OC | C15H15NO2
